US04125732
3-(p-Chlorophenoxy)propan-2-ol
To a solution of 3.87 g of p-chlorophenol in 30 ml of tetrahydrofuran is added 1.2 g of sodium hydride (60% dispersion in oil). After one hour, 4.98 g of potassium iodide and 2.54 ml of 1-chloro-2-propanol in 10 ml of tetrahydrofuran is added. The mixture is heated at 80° C. for 18 hours. The mixture is chilled, poured into 300 ml of ice-water containing 3 ml of acetic acid. The mixture is extracted with dichloromethane and the extract washed with saturated sodium bicarbonate and sodium chloride solution. Drying (MgSO4) and removal of the solvent under reduced pressure gives 5.1 g of product as an oil.

reactant | p-chlorophenol | 3.87 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | potassium iodide | 4.98 g | [I-].[K+]
reactant | 1-chloro-2-propanol | 2.54 ml | ClCC(C)O | C3H7ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(p-Chlorophenoxy)propan-2-ol | 5.1 g | ClC1=CC=C(OCC(C)O)C=C1 | C9H11ClO2
